US06313122B1
E. N1-(4-Chlorobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl)-1,2,4-benzenetriamine
N1-(4-Chlorobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-N4-tert-butoxycarbonylamino-1,2,4-benzenetriamine (150 mg, 0.26 mmol) was dissolved in trifluoroacetic acid (2 mL). After 2 h, the mixture was concentrated and the residue partitioned between EtOAc and 1N NaOH and sat'd NaHCO3 (aq). The aqueous layer was washed with EtOAc (2×) and the combined extracts were dried (MgSO4) and concentrated. The residue was purified by chromatography (9:1 CH2Cl2:MeOH) affording 110 mg (89%) of the title compound.

reactant | N1-(4-Chlorobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-N4-tert-butoxycarbonylamino-1,2,4-benzenetriamine | 0.26 mmol, 150 mg | ClC1=CC=C(C(=O)NC=2C(=CC(=CC2)NNC(=O)OC(C)(C)C)NC(=O)OC(C2=CC=NC=C2)C2CCNCC2)C=C1 | C30H35ClN6O5
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N1-(4-Chlorobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl)-1,2,4-benzenetriamine | 110 mg, 89% | ClC1=CC=C(C(=O)NC=2C(=CC(=CC2)N)NC(=O)OC(C2=CC=NC=C2)C2CCNCC2)C=C1 | C25H26ClN5O3
